US07888503B2
A 20 mL microwave tube was charged with (2-fluoro-5-iodophenyl)(3-nitrophenyl)methanone (1.1 g), 4-pyridylboronic acid (730 mg), dichlorobis(triphenylphosphine)palladium(II) (420 mg), dimethoxyethane (8 mL), ethanol (4 mL) and a saturated solution of sodium carbonate (2 mL) then heated to 110° C. for 360 s using microwave irradiation. The reaction was concentrated to dryness and the residue was taken up in water then extracted with ethyl acetate. The organic extracts were combined and dried over magnesium sulfate. The drying salts were removed by filtration and the filtrate was concentrated. The residue was purified by silica gel chromatography to provide [2-fluoro-5-(4-pyridinyl)phenyl](3-nitrophenyl)methanone (540 mg) as a solid. H1 NMR (d6-dmso): 8.63 (d, 2H), 8.52 (dd, 1H), 8.48 (s, 1H), 8.21 (d, 1H), 8.15 (m, 1H), 8.06 (dd, 1H), 7.85 (dd, 1H), 7.74 (d, 2H), 7.58 (dd, 1H).

reactant | (2-fluoro-5-iodophenyl)(3-nitrophenyl)methanone | 1.1 g | FC1=C(C=C(C=C1)I)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C13H7FINO3
reactant | 4-pyridylboronic acid | 730 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | dimethoxyethane | 8 mL | C(OC)COC | C4H10O2
reactant | sodium carbonate | 2 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 420 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | [2-fluoro-5-(4-pyridinyl)phenyl](3-nitrophenyl)methanone | 540 mg | FC1=C(C=C(C=C1)C1=CC=NC=C1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C18H11FN2O3
